US07176231B2
(4) 5-hexanoyl-2-indolinone
Prepared from 2-indolinone and hexanoic acid chloride

reactant | 2-indolinone | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | hexanoic acid chloride | C(CCCCC)(=O)Cl | C6H11ClO
product | 5-hexanoyl-2-indolinone | C(CCCCC)(=O)C=1C=C2CC(NC2=CC1)=O | C14H17NO2
